US07767672B2
N-(4-(4-(5-methyl-1H-pyrazol-3-ylamino)-6-(2-(azetidin-1-yl)ethyl)pyrimidin-2-ylthio)phenyl)propionamide
A mixture of N-(4-(4-(5-methyl-1H-pyrazol-3-ylamino)-6-(2-bromoethyl)pyrimidin-2-ylthio)phenyl)propionamide (100 mg, 0.21 mmol) and azetidine (36 mg, 0.63 mmol) in dimethylformamide (2 ml) was stirred at room temperature under a nitrogen atmosphere for 24 hours. The reaction mixture was diluted with ethyl acetate (40 ml). The organic layer was washed with a saturated solution of sodium bicarbonate (10 ml) and brine (10 ml), then dried over magnesium sulfate. The residue was purified by Gilson HPLC to afford the title compound as a bis-trifluoro acetic acid salt (0.5 mg, 1%). 1H NMR (CD3OD): 1.30-1.37 (3H, m), 2.15-2.20 (3H, s), 2.40-2.50 (4H, m), 2.80-2.90 (2H, t), 3.50-3.55 (2H, t), 4.00-4.15 (4H, s), 6.50-6.55 (1H, s), 7.55-7.65 (2H, m), 7.75-7.80 (2H, m). ES+ 438

reactant | N-(4-(4-(5-methyl-1H-pyrazol-3-ylamino)-6-(2-bromoethyl)pyrimidin-2-ylthio)phenyl)propionamide | 0.21 mmol, 100 mg | CC1=CC(=NN1)NC1=NC(=NC(=C1)CCBr)SC1=CC=C(C=C1)NC(CC)=O | C19H21BrN6OS
reactant | azetidine | 0.63 mmol, 36 mg | N1CCC1 | C3H7N
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
product | N-(4-(4-(5-methyl-1H-pyrazol-3-ylamino)-6-(2-(azetidin-1-yl)ethyl)pyrimidin-2-ylthio)phenyl)propionamide | CC1=CC(=NN1)NC1=NC(=NC(=C1)CCN1CCC1)SC1=CC=C(C=C1)NC(CC)=O | C22H27N7OS
